*
L1 N016 0 100m
L2 N016 0 200m
L3 N016 0 150m
L4 N016 0 50m
L5 N016 0 100m
L6 N016 0 150m
L7 N016 0 50m
L8 N016 0 50m
L9 N016 0 150m
L10 N016 0 100m
R1 0 N016 100
V1 N001 0 SINE(0 10 1k)
L11 N016 N015 100m
L12 N016 N015 200m
L13 N016 N015 150m
L14 N016 N015 50m
L15 N016 N015 100m
L16 N016 N015 150m
L17 N016 N015 50m
L18 N016 N015 50m
L19 N016 N015 150m
L20 N016 N015 100m
R2 N015 N016 100
L21 N014 N015 100m
L22 N014 N015 200m
L23 N014 N015 150m
L24 N014 N015 50m
L25 N014 N015 100m
L26 N014 N015 150m
L27 N014 N015 50m
L28 N014 N015 50m
L29 N014 N015 150m
L30 N014 N015 100m
R3 N015 N014 100
L31 N014 N013 100m
L32 N014 N013 200m
L33 N014 N013 150m
L34 N014 N013 50m
L35 N014 N013 100m
L36 N014 N013 150m
L37 N014 N013 50m
L38 N014 N013 50m
L39 N014 N013 150m
L40 N014 N013 100m
R4 N013 N014 100
L41 N012 N013 100m
L42 N012 N013 200m
L43 N012 N013 150m
L44 N012 N013 50m
L45 N012 N013 100m
L46 N012 N013 150m
L47 N012 N013 50m
L48 N012 N013 50m
L49 N012 N013 150m
L50 N012 N013 100m
R5 N013 N012 100
L51 N012 N011 100m
L52 N012 N011 200m
L53 N012 N011 150m
L54 N012 N011 50m
L55 N012 N011 100m
L56 N012 N011 150m
L57 N012 N011 50m
L58 N012 N011 50m
L59 N012 N011 150m
L60 N012 N011 100m
R6 N011 N012 100
L61 N010 N011 100m
L62 N010 N011 200m
L63 N010 N011 150m
L64 N010 N011 50m
L65 N010 N011 100m
L66 N010 N011 150m
L67 N010 N011 50m
L68 N010 N011 50m
L69 N010 N011 150m
L70 N010 N011 100m
R7 N011 N010 100
L71 N010 N009 100m
L72 N010 N009 200m
L73 N010 N009 150m
L74 N010 N009 50m
L75 N010 N009 100m
L76 N010 N009 150m
L77 N010 N009 50m
L78 N010 N009 50m
L79 N010 N009 150m
L80 N010 N009 100m
R8 N009 N010 100
L81 N008 N009 100m
L82 N008 N009 200m
L83 N008 N009 150m
L84 N008 N009 50m
L85 N008 N009 100m
L86 N008 N009 150m
L87 N008 N009 50m
L88 N008 N009 50m
L89 N008 N009 150m
L90 N008 N009 100m
R9 N009 N008 100
L91 N008 N007 100m
L92 N008 N007 200m
L93 N008 N007 150m
L94 N008 N007 50m
L95 N008 N007 100m
L96 N008 N007 150m
L97 N008 N007 50m
L98 N008 N007 50m
L99 N008 N007 150m
L100 N008 N007 100m
R10 N007 N008 100
L101 N006 N007 100m
L102 N006 N007 200m
L103 N006 N007 150m
L104 N006 N007 50m
L105 N006 N007 100m
L106 N006 N007 150m
L107 N006 N007 50m
L108 N006 N007 50m
L109 N006 N007 150m
L110 N006 N007 100m
R11 N007 N006 100
L111 N006 N005 100m
L112 N006 N005 200m
L113 N006 N005 150m
L114 N006 N005 50m
L115 N006 N005 100m
L116 N006 N005 150m
L117 N006 N005 50m
L118 N006 N005 50m
L119 N006 N005 150m
L120 N006 N005 100m
R12 N005 N006 100
L121 N004 N005 100m
L122 N004 N005 200m
L123 N004 N005 150m
L124 N004 N005 50m
L125 N004 N005 100m
L126 N004 N005 150m
L127 N004 N005 50m
L128 N004 N005 50m
L129 N004 N005 150m
L130 N004 N005 100m
R13 N005 N004 100
L131 N004 N003 100m
L132 N004 N003 200m
L133 N004 N003 150m
L134 N004 N003 50m
L135 N004 N003 100m
L136 N004 N003 150m
L137 N004 N003 50m
L138 N004 N003 50m
L139 N004 N003 150m
L140 N004 N003 100m
R14 N003 N004 100
L141 N002 N003 100m
L142 N002 N003 200m
L143 N002 N003 150m
L144 N002 N003 50m
L145 N002 N003 100m
L146 N002 N003 150m
L147 N002 N003 50m
L148 N002 N003 50m
L149 N002 N003 150m
L150 N002 N003 100m
R15 N003 N002 100
L151 N002 N001 100m
L152 N002 N001 200m
L153 N002 N001 150m
L154 N002 N001 50m
L155 N002 N001 100m
L156 N002 N001 150m
L157 N002 N001 50m
L158 N002 N001 50m
L159 N002 N001 150m
L160 N002 N001 100m
R16 N001 N002 100
.tran 0 1m 0 1u
.backanno
.end
